US06414149B1
Step E: (R)-1-[4-(2-Methyl-4-phenyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl)-pyrimidin-2-yl]-ethyl butyrate
To a solution of 2-methyl-4-phenyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine (prepared according to the method of Example 86, Step D, 6.8 g, 30.0 mmol) in isopropanol (125 mL) was added (R)-1-(4-chloro-pyrimidin-2-yl)-ethyl butyrate (prepared according to the method of Preparation Seven, 6.8 g, 30 mmol) followed by triethylamine (12.5 mL, 89.9 mmol). This mixture was stirred at reflux for 8 h, cooled to room temperature overnight, and evaporated. The residue was diluted with saturated aqueous sodium bicarbonate and extracted with ethyl acetate (3×). The combined organic extracts were dried over sodium sulfate, filtered, evaporated, and purified by flash column chromatography (2% methanol/ethyl acetate) to give 11.0 g (88%) of the title compound of Example 86, Step E, as a yellow oil. 1H NMR (CDCl3, 250 MHz) δ8.28 (d, 1H), 7.62-7.40 (c, 5H), 6.45 (d, 1H), 5.69 (q, 1H), 4.78 (s, 2H), 3.93 (app s, 2H), 2.95 (t, 2H), 2.77 (s, 3H), 2.40 (t, 2H), 1.77-1.63 (c, 2H), 1.60 (d, 3H), 0.98 (t, 3H); MS (APCI) 418 (MH+).

reactant | 2-methyl-4-phenyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine | CC=1N=C(C2=C(N1)CNCC2)C2=CC=CC=C2 | C14H15N3
reactant | (R)-1-(4-chloro-pyrimidin-2-yl)-ethyl butyrate | C(CCC)(=O)O[C@H](C)C1=NC=CC(=N1)Cl | C10H13ClN2O2
reactant | triethylamine | 89.9 mmol, 12.5 mL | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 125 mL | C(C)(C)O | C3H8O
product | (R)-1-[4-(2-Methyl-4-phenyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl)-pyrimidin-2-yl]-ethyl butyrate | 11.0 g, 88% | C(CCC)(=O)O[C@H](C)C1=NC=CC(=N1)N1CC=2N=C(N=C(C2CC1)C1=CC=CC=C1)C | C24H27N5O2
